US09382238B2
To a mixture of 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (55.1 g, 134 mmol) and 5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-amine (26 g, 134 mmol) in pyridine (500 mL) was added T3P® (137.5 mL, 134 mmol) dropwise and stirred at 25° C. for 1 h. After TLC analysis showed the starting material was consumed completely, the mixture was poured into stirring cold water (1 L). The mixture was stirred for 0.5 h and then let stand for 10 h. The solid was filtered, washed with H2O (200 mL×3) and TBME (200 mL×2) and dried in vacuo to give an off-white solid of 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-yl)acetamide (65 g, 100 mmol, 74% yield): 1H NMR (400 MHz, CD3OD) δ 7.94 (s, 1H), 7.40-7.32 (m, 3H), 7.26 (d, J=9.6 Hz, 2H), 6.90 (d, J=8.8 Hz, 3H), 6.43 (s, 1H), 5.26 (s, 2H), 4.11 (q, J=7.2 Hz, 2H), 3.81 (s, 2H), 3.78 (s, 3H), 1.56 (s, 6H), 1.35 (t, J=7.2 Hz, 3H); ES-LCMS m/z: 588 (M+H).

reactant | 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 134 mmol, 55.1 g | C(C)OC1=C(C=NC(=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
reactant | 5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-amine | 134 mmol, 26 g | FC(C(C)(C)C1=CC(=NO1)N)(F)F | C7H9F3N2O
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(5-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-3-yl)acetamide | 100 mmol, 65 g, 74% yield | C(C)OC1=C(C=NC(=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=NOC(=C1)C(C(F)(F)F)(C)C)F | C30H29F4N3O5
